US08791100B2
1. 5-Bromo-2-chloro-3-dimethoxymethyl-pyridine, INT 47
A mixture of 5-bromo-2-chloronicotinaldehyde (981 mg, 2.43 mmol), trimethylorthoformate (1.46 mL, 13.4 mmol) and p-toluenesulfonic acid monohydrate (42.3 mg, 0.222 mmol) in MeOH (18 mL) was refluxed for 16 hours. The mixture was diluted in CH2Cl2 and washed with 10% aqueous potassium carbonate and brine, dried over sodium sulfate, filtered and concentrated. The crude product was used in the next step without further purification.

reactant | 5-bromo-2-chloronicotinaldehyde | 2.43 mmol, 981 mg | BrC=1C=NC(=C(C=O)C1)Cl | C6H3BrClNO
reactant | trimethylorthoformate | 13.4 mmol, 1.46 mL | COC(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 0.222 mmol, 42.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | MeOH | 18 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-chloro-3-dimethoxymethyl-pyridine | BrC=1C=C(C(=NC1)Cl)C(OC)OC | C8H9BrClNO2
